US05977178
To a solution of (2R)-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid (8.78 g, 26.6 mmol) in dichloromethane (30 ml) were added 1-hydroxy-7-azabenzotriazole (3.62 g, 26.6 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (5.54 mg, 28.9 mmol) and the mixture was stirred for 30 min. Then (2R)-N,N-dimethyl-2-methylamino-3-phenylpropionamide (4.58 g, 22.2 mmol) in dichloromethane (15 ml) and diisopropylethylamine (4.94 ml, 28.9 mmol) were added and the mixture was stirred overnight at room temperature. The mixture was washed with water (20 ml), aqueous sodium bicarbonate (20 ml), water (2×20 ml), brine (20 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was chromatographed on silica (400 g) with ethyl acetate/heptane 1:4 to give 6.64 g of N-((1R)-1-(N-((1R)-1-(dimethylcarbamoyl)-2-phenylethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butylester.

reactant | (2R)-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid | 26.6 mmol, 8.78 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 26.6 mmol, 3.62 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 28.9 mmol, 5.54 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (2R)-N,N-dimethyl-2-methylamino-3-phenylpropionamide | 22.2 mmol, 4.58 g | CN(C([C@@H](CC1=CC=CC=C1)NC)=O)C | C12H18N2O
reactant | diisopropylethylamine | 28.9 mmol, 4.94 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-((1R)-1-(N-((1R)-1-(dimethylcarbamoyl)-2-phenylethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butylester | 6.64 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@H](CC1=CC=CC=C1)C(N(C)C)=O)=O)=O | C31H39N3O4
